US04492694
To a stirred solution of 3 g (9.27 mM) of 3-indolylglycine in 30 ml of water and 30 ml of dioxane containing 1.75 g of sodium bicarbonate were added in one portion 2.63 g (12 mM) of di-tert.-butyldicarbonate. The reaction mixture was warmed to 60° C. and stirred for five hours, and then was cooled to 25° C. and stirred for an additional seventeen hours. The reaction mixture was concentrated in volume and the product was extracted into ethyl acetate. The organic layer was dried and the solvent was removed to give 2.13 g of N-tert.-butoxycarbonyl-3-indolylglycine.

reactant | 3-indolylglycine | 9.27 mM, 3 g | N1C=C(C2=CC=CC=C12)NCC(=O)O | C10H10N2O2
reactant | dioxane | 30 ml, 1.75 g | O1CCOCC1 | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | di-tert.-butyldicarbonate | 12 mM, 2.63 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 30 ml | O | H2O
product | N-tert.-butoxycarbonyl-3-indolylglycine | 2.13 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CNC2=CC=CC=C12 | C15H18N2O4
